US08445501B2
4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(2-methoxy-acetyl)morpholin-2-ylmethyl]-amide
Starting from 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (morpholin-2-ylmethyl)-amide (example A147) and methoxy-acetyl chloride the title compound is obtained as colorless solid.

reactant | 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid (morpholin-2-ylmethyl)-amide | N1CC(OCC1)CNC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C23H25N5O5
reactant | methoxy-acetyl chloride | COCC(=O)Cl | C3H5ClO2
product | 4-(5-Cyclopropylmethoxy-benzo[1,3]dioxol-4-yl)-5H-pyrrolo[3,2-d]pyrimidine-7-carboxylic acid [4-(2-methoxy-acetyl)morpholin-2-ylmethyl]-amide | COCC(=O)N1CC(OCC1)CNC(=O)C1=CNC2=C1N=CN=C2C2=C(C=CC=1OCOC12)OCC1CC1 | C26H29N5O7
